US07964724B2
Potassium carbonate (65.3 g, 473 mmol) and iodoethane (25.5 mL, 324 mmol) were added to a stirred solution of 3-hydroxyphenylacetic acid (12.0 g, 79 mmol) in 2-butanone (125 mL). The resulting mixture was heated in an oil bath (80° C.) for 16 h and then allowed to cool. The mixture was concentrated and methylene chloride was added. The organic layer was washed with water, brine, and dried over anhydrous magnesium sulfate. The solids were filtered off, and the filtrate was concentrated to give ethyl 3-ethoxyphenylacetate (12.7 g, 78%) as a clear oil.

reactant | Potassium carbonate | 473 mmol, 65.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 324 mmol, 25.5 mL | ICC | C2H5I
reactant | 3-hydroxyphenylacetic acid | 79 mmol, 12.0 g | OC=1C=C(C=CC1)CC(=O)O | C8H8O3
reactant | 2-butanone | 125 mL | CC(CC)=O | C4H8O
product | ethyl 3-ethoxyphenylacetate | 12.7 g, 78% | C(C)OC=1C=C(C=CC1)CC(=O)OCC | C12H16O3
